US04849007
Preparation of 2-(4-chlorobenzoyl)-2-(4-chlorophenyl)-oxirane
With cooling and stirring, an ethereal diazomethane solution prepared by reaction of 5.34 g of N-nitrosomethylurea with aqueous sodium hydroxide solution in ether is added dropwise to a solution of 5 g of 4,4'-dichlorobenzil in 50 ml of dioxane. When the dropwise addition is complete, stirring is continued for 16 hours at room temperature, and the reaction solution is then concentrated by evaporation. The residual oil is crude 2-(4-chlorobenzoyl)-2-(4-chlorophenyl)oxirane which is purified by high vacuum distillation.

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | N-nitrosomethylurea | 5.34 g | N(=O)CNC(=O)N | C2H5N3O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4,4'-dichlorobenzil | 5 g | ClC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)Cl | C14H8Cl2O2
solvent | ether | CCOCC | C4H10O
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 2-(4-chlorobenzoyl)-2-(4-chlorophenyl)-oxirane | ClC1=CC=C(C(=O)C2(OC2)C2=CC=C(C=C2)Cl)C=C1 | C15H10Cl2O2
